US07943628B2
Preparation 45: Benzyl (3R)-3-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate
A solution of tert-Butyl (3S)-pyrrolidin-3-ylcarbamate (10.0 g, 53.7 mmol) in DCM (40 ml) was treated with TEA (14.9ml, 107 mmol) and cooled to 0° C. Benzyl chloroformate (7.6 ml, 53.7 mmol) was added dropwise and the resulting suspension was allowed to warm gradually to room temperature over a period of 18 hours. The reaction mixture was diluted with water (100 ml) and the organic phase separated. The aqueous phase was extracted with further DCM (2×50 ml) and the combined organic extracts dried (sodium sulphate) and concentrated in vacuo to give a pale yellow solid (14.6 g, 85%)

reactant | tert-Butyl (3S)-pyrrolidin-3-ylcarbamate | 53.7 mmol, 10.0 g | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | Benzyl chloroformate | 53.7 mmol, 7.6 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | Benzyl (3R)-3-[(tert-butoxycarbonyl)amino]pyrrolidine-1-carboxylate | 14.6 g, 85% | C(C)(C)(C)OC(=O)N[C@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C17H24N2O4
